US08633186B2
2-(3-hydroxy-2-methylpropoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 2-methylpropane-1,3-diol and 2,6-dinitrobenzonitrile in 37% yield. MS 237 (MH+).

reactant | 2-methylpropane-1,3-diol | CC(CO)CO | C4H10O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(3-hydroxy-2-methylpropoxy)-6-nitrobenzonitrile | 37% yield | OCC(COC1=C(C#N)C(=CC=C1)[N+](=O)[O-])C | C11H12N2O4
